US07148217B2
Step A: Preparation of 1-(2-chlorophenyl)-5-(2-furanyl)-3-(trifluoromethyl)-1H-pyrazole
To a solution of 1-(2-furyl)-4,4,4-trifluorobutane-1,3-dione (105 g, 0.51 mole) in glacial acetic acid (220 mL) was added sodium acetate (42 g 0.51 mole). The temperature rose to about 34° C. 2-Chlorophenylhydrazine hydrochloride (90 g, 0.5 mole) was added portionwise over a period of 10 minutes to give a creamy suspension. The mixture was warmed to about 60° C. for about 45 minutes. The bulk of the acetic acid was removed by stripping on a rotary evaporator at a bath temperature of 65° C. The remaining oily residue was added to about 800 ml of water with vigorous stirring and a heterogeneous mixture resulted. After about 15 minutes, dichloromethane (500 mL) was added and the mixture was partitioned. The aqueous phase was extracted with 300 ml of dichloromethane. The combined organic phases were washed with water and saturated sodium bicarbonate solution and then dried with MgSO4 and filtered. Volatiles were removed on a rotary evaporator. The crude product consisted of 151 g of a dark red oil, which contained approximately 89% of the desired product and 11% of the regioisomeric pyrazole (determined by NMR analysis).

reactant | 1-(2-furyl)-4,4,4-trifluorobutane-1,3-dione | 0.51 mole, 105 g | O1C(=CC=C1)C(CC(C(F)(F)F)=O)=O | C8H5F3O3
reactant | sodium acetate | 0.51 mole, 42 g | C(C)(=O)[O-].[Na+]
reactant | 2-Chlorophenylhydrazine hydrochloride | 0.5 mole, 90 g | Cl.ClC1=C(C=CC=C1)NN
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | acetic acid | 220 mL | C(C)(=O)O | C2H4O2
product | 1-(2-chlorophenyl)-5-(2-furanyl)-3-(trifluoromethyl)-1H-pyrazole | ClC1=C(C=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C14H8ClF3N2O
